US07419984B2
A stirred suspension of 2-(2-amino-6-chloro-pyrimidin-4-yl)-4-bromo-phenol (0.151 g, 0.50 mmol), 1-bromomethyl-4-nitro-benzene (0.218 g, 1.0 mmol), and cesium carbonate (0.325 g, 1.0 mmol) in acetonitrile (10 ml) was stirred at 80° C. for 2 hours. Filtration and concentration of the filtrate provided a crude product which was dissolved in ethyl acetate (10 ml) and stirred while a 4 M solution of hydrogen chloride in dioxane (0.50 ml, 2.0 mmol) was added. Filtration provided 6-[5-bromo-2-(4-nitro-benzyloxy)-phenyl]-6-chloro-pyrimidin-2-ylamine as hydrochloride salt (0.23 g, 96% yield).

reactant | 2-(2-amino-6-chloro-pyrimidin-4-yl)-4-bromo-phenol | 0.50 mmol, 0.151 g | NC1=NC(=CC(=N1)C1=C(C=CC(=C1)Br)O)Cl | C10H7BrClN3O
reactant | 1-bromomethyl-4-nitro-benzene | 1.0 mmol, 0.218 g | BrCC1=CC=C(C=C1)[N+](=O)[O-] | C7H6BrNO2
reactant | cesium carbonate | 1.0 mmol, 0.325 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | hydrogen chloride | Cl | ClH
reactant | dioxane | 2.0 mmol, 0.50 ml | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 6-[5-bromo-2-(4-nitro-benzyloxy)-phenyl]-6-chloro-pyrimidin-2-ylamine | BrC=1C=CC(=C(C1)C1(C=CN=C(N1)N)Cl)OCC1=CC=C(C=C1)[N+](=O)[O-] | C17H14BrClN4O3
